US08912180B2
60% Sodium hydride (110 mg) was suspended in N,N-dimethylformamide (20 mL), and tert-butyl[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}amino)cyclohexyl]carbamate (1 g) was added thereto at 0° C., followed by stirring at room temperature for 30 minutes. To the reaction mixture was added a 1-bromo-2-methylpropan (807 mg), followed by stirring at room temperature for 12 hours. After the completion of the reaction, to the reaction solution was added ice water, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified using silica gel chromatography to obtain tert-butyl{trans-4-[{6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}(isobutyl)amino]cyclohexyl}carbamate (163 mg).

reactant | Sodium hydride | 110 mg | [H-].[Na+]
reactant | tert-butyl[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}amino)cyclohexyl]carbamate | 1 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)NC1=NC(=NC(=C1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2)=O | C27H35F2N7O3
reactant | 1-bromo-2-methylpropan | 807 mg | BrCC(C)C | C4H9Br
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | tert-butyl{trans-4-[{6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}(isobutyl)amino]cyclohexyl}carbamate | 163 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)N(CC(C)C)C1=NC(=NC(=C1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2)=O | C31H43F2N7O3
